US06897231B2
SYNTHESIS OF 2-METHOXY-6-{5-[5-(PYRROLIDINYLMETHYL)(1H-1,2,4-TRIAZOL-3-YL)](1H-INDAZOL-3-YL)}NAPHTHALENE
The title compound was prepared using the same procedure as for Example 423. To a suspension of ethoxy[3-(6-methoxy(2-naphthyl))(1H-indazol-5-yl)]methanimine (0.386 g, 1.01 mmol) in methanol (5 mL) was added N-amino-2-pyrrolidinylacetamide (0.433 g, 3.03 mmol) and 4.3 M sodium methoxide (0.518 mL, 2.23 mmol). The mixture was heated in a sealed tube at 95° C. for 16 h. The solvent was removed using a rotary evaporator which gave a solid residue. Purification of the residue by preparative HPLC (30-100%, acetonitrile/water) gave the title compound (0.045 g, 10% yield): 1H NMR (DMSO-d6) δ 13.41 (br s, 1H), 8.73 (s, 1H), 8.44 (s, 1H), 8.09 (t, 2H), 8.00 (t, 2H), 7.68 (d, 1H), 7.39 (d, 1H), 7.23 (dd, 1H), 3.91 (s, 3H), 3.75 (s, 2H), 2.53 (m, 4H), 2.49 (m, 4H); ES-MS (m/z) 425 [M+1]+.

reactant | ethoxy[3-(6-methoxy(2-naphthyl))(1H-indazol-5-yl)]methanimine | 1.01 mmol, 0.386 g | C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC2=CC=C(C=C2C=C1)OC | C21H19N3O2
reactant | N-amino-2-pyrrolidinylacetamide | 3.03 mmol, 0.433 g | NNC(CN1CCCC1)=O | C6H13N3O
reactant | sodium methoxide | 2.23 mmol, 4.3 M, 0.518 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-METHOXY-6-{5-[5-(PYRROLIDINYLMETHYL)(1H-1,2,4-TRIAZOL-3-YL)](1H-INDAZOL-3-YL)}NAPHTHALENE | 0.045 g, 10% yield | COC1=CC2=CC=C(C=C2C=C1)C1=NNC2=CC=C(C=C12)C1=NNC(=N1)CN1CCCC1 | C25H24N6O
